US07683067B2
2-Hydroxy-N-methyl-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride
The title compound was prepared as described for Example 101 using 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine and N-methyl-2-oxoindoline-5-carboxamide. Yield: 12%: 1H NMR (D2O, 400 MHz) δ 7.82 (d, J=2 Hz, 1H), 7.58 (dd, J=9, 2 Hz, 1H), 7.45 (br s, 1H), 7.28 (m, 2H), 6.92 (d, J=8 Hz, 1H), 4.16 (s, 2H), 4.12 (m, 2H), 3.79 (m, 2H), 3.46 (m, 2H), 3.24 (m, 2H), 2.90 (s, 3H); MS (TSP) m/z 367 (M++1).

reactant | 4-[(6-chloro-1-oxidopyridin-3-yl)methyl]morpholine | ClC1=CC=C(C=[N+]1[O-])CN1CCOCC1 | C10H13ClN2O2
reactant | N-methyl-2-oxoindoline-5-carboxamide | CNC(=O)C=1C=C2CC(NC2=CC1)=O | C10H10N2O2
product | 2-Hydroxy-N-methyl-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carboxamide hydrochloride | Yield: 12% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C(=O)NC | InChI=1S/C20H22N4O3.ClH/c1-21-19(25)14-3-5-16-15(10-14)18(20(26)23-16)17-4-2-13(11-22-17)12-24-6-8-27-9-7-24;/h2-5,10-11,23,26H,6-9,12H2,1H3,(H,21,25);1H
